US09303033B2
Synthesis of 5-((5-(3-chlorophenylamino)-7-(3-(piperazine-1-carbonyl)phenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione
Tert-butyl 4-(3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoyl)piperazine-1-carboxylate (27 mg, 0.04 mmol) was dissolved in 2 mL of TFA/DCM (1:1) and stirred at room temperature for 1 hour. Excess solvent and TFA were removed by evaporation under a stream of nitrogen. The residue was diluted with water then the mixture was filtered. The recovered solid was washed with water followed by 50% ethanol. The product, 5-((5-(3-chlorophenylamino)-7-(3-(piperazine-1-carbonyl)phenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione, was collected as a solid in 21% yield. LCMS (M+1=558)

reactant | Tert-butyl 4-(3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoyl)piperazine-1-carboxylate | 0.04 mmol, 27 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC=1C=C(C(=O)N3CCN(CC3)C(=O)OC(C)(C)C)C=CC1)N=CC2C=C2NC(NC2=O)=O | C32H32ClN9O5
solvent | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-((5-(3-chlorophenylamino)-7-(3-(piperazine-1-carbonyl)phenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 21% yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1=CC(=CC=C1)C(=O)N1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C27H24ClN9O3
